
******************************************************************************* 
*                                                                             * 
* Copyright 2025 IHP PDK Authors                                              *
*                                                                             *
* Licensed under the Apache License, Version 2.0 (the "License");             *
* you may not use this file except in compliance with the License.            *
* You may obtain a copy of the License at                                     *
*                                                                             *
*     https://www.apache.org/licenses/LICENSE-2.0                             *
*                                                                             *
* Unless required by applicable law or agreed to in writing, software         *
* distributed under the License is distributed on an "AS IS" BASIS,           *
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.    *
* See the License for the specific language governing permissions and         *
* limitations under the License.                                              *
*                                                                             *
*******************************************************************************
*                        COMMON ESD MODELS                                    *
*******************************************************************************

.MODEL diodevdd_mod D (tnom = 27 level = 1 is=4.911e-019 rs=289.6 n=1.04 isr = 5.422E-015 ikf=10m cj0=8.716e-016 m=0.3294 vj=0.6621  bv=11.81 ibv=4.744e-016  nbv=1   eg=1.11 xti=4  )          
.MODEL diodevss_mod D (tnom = 27 level = 1 is=9.017E-019 rs=200   n=1.03 isr=3.776E-015   ikf=0.0001754 cj0=9.42E-016  m=0.3012  vj=0.6684 bv=11.28 ibv=1E-009 8 nbv=1.324   eg=1.17 xti=3  )
.MODEL dsub_2kv_mod D (tnom = 27 is = 1.7E-016 rs = 4.759 n = 1  ikf = 10m  cj = 99.77E-018   vj = 0.4547 bv = 10 ibv = 1E-019  xti = 3  eg = 1.11 )
.MODEL dsub_4kv_mod D (tnom = 27 is = 1.7E-016 rs = 4.759 n = 1  ikf = 100u cj = 99.77E-018   vj = 0.4547 bv = 10 ibv = 0       xti = 3  eg = 1.11 )
********************************************************

 
.subckt diodevdd_2kv VDD PAD VSS
.param DEV_A=35 DEV_P=58.08 sub_A=224.9559 sub_P=81.12 m=1

diodevdd_2kv PAD VDD diodevdd_mod area =DEV_A pj=DEV_P m=m 
dsub_2kv VSS VDD dsub_2kv_mod area=sub_A pj=sub_P m=m
.ends diodevdd_2kv 
 
*************************************

.subckt idiodevdd_2kv VDD PAD VSS
.param DEV_A=35  DEV_P=58.08  sub_A=224.9559  sub_P=81.12 m=1

diodevdd_2kv PAD  VDD diodevdd_mod area = DEV_A pj=DEV_P m=m 
dsub_2kv VSS  VDD dsub_2kv_mod area = sub_A  pj=DEV_P m=m
.ends idiodevdd_2kv
**************************************

.subckt diodevdd_4kv VDD PAD VSS
.param DEV_A=70  DEV_P=116.2  sub_A=381.0339  sub_P=90.32 m= 1

diodevdd_4kv PAD  VDD diodevdd_mod area = DEV_A pj=DEV_P m=m 
dsub_4kv VSS  VDD dsub_4kv_mod area = sub_A pj=sub_P m=m 
.ends diodevdd_4kv_mod

*******************************************************
.subckt idiodevdd_4kv VDD PAD VSS
.param DEV_A=70  DEV_P=116.2  sub_A=381.0339  sub_P=90.32 m=1

diodevdd_4kv PAD  VDD diodevdd_mod area = DEV_A pj=DEV_P m=m 
dsub_4kv VSS  VDD dsub_4kv_mod area = sub_A pj=sub_P m=m 
.ends idiodevdd_4kv_mod
************************************************************

.subckt diodevss_2kv VDD PAD VSS
.param DEV_A=35  DEV_P=58.08  sub_A=224.9559  sub_P=81.12 m=1

diodevss_2kv VSS PAD diodevss_mod area = DEV_A pj=DEV_P m=m          
dsub_2kv VSS VDD dsub_2kv_mod area = sub_A pj=sub_P m=m
.ends diodevss_2kv
***********************************************************

.subckt idiodevss_2kv VDD PAD VSS
.param DEV_A=35  DEV_P=58.08  sub_A=224.9559  sub_P=81.12 m=1

diodevss_2kv VSS PAD diodevss_mod area = DEV_A pj=DEV_P m=m          
dsub_2kv VSS VDD dsub_2kv_mod area = sub_A pj=sub_P m=m
.ends idiodevss_2kv
************************************************************

.subckt diodevss_4kv VDD PAD VSS
.param DEV_A=70  DEV_P=116.2  sub_A=381.0339  sub_P=90.32 m=1

diodevss_4kv VSS PAD diodevss_mod area = DEV_A pj=DEV_P m=m 
dsub_4kv VSS  VDD dsub_4kv_mod area = sub_A pj=sub_P m=m 
.ends diodevss_4kv
***************************************************************

.subckt idiodevss_4kv VDD PAD VSS 
.param DEV_A=70  DEV_P=116.2  sub_A=381.0339  sub_P=90.32 m=1

diodevss_4kv VSS PAD diodevss_mod area = DEV_A pj=DEV_P m=m 
dsub_4kv VSS  VDD dsub_4kv_mod area = sub_A pj=sub_P m=m 
.ends idiodevss_4kv
****************************************************************


